US03962441
A solution of lithium aluminium hydride (~ 2 gm) in ether (50 ml) was slowly added to a solution of ethyl 2-(2-phenyl-6-benzoxazolyl)-propionate (5 g) in ether (40 ml). The mixture was heated under reflux for 1 hr., then ethyl acetate was slowly added until effervescence ceased. 6-N-Aqueous hydrochloric acid was then added and the ether layer was separated off and dried. Chromatography over silica gel yield pure 2-(2-phenyl-6-benzoxazolyl)-propanol, m.p. 98°C.

reactant | lithium aluminium hydride | ~ 2 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(2-phenyl-6-benzoxazolyl)-propionate | 5 g | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(C(=O)OCC)C | C18H17NO3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 40 ml | CCOCC | C4H10O
product | 2-(2-phenyl-6-benzoxazolyl)-propanol | C1(=CC=CC=C1)C=1OC2=C(N1)C=CC(=C2)C(CO)C | C16H15NO2
